US08703796B2
(377b) 5-Bromo-6-methoxy-N-methyl-3-nitropyridin-2-amine
6-Methoxy-N-methyl-3-nitropyridin-2-amine (7 g, 38 mmol) in 150 mL dichloromethane and 50 mL methanol were combined with tetrabutylammonium-tri-bromide (20.3 g, 42.0 mmol). The mixture was stirred at ambient temperator for 2 h. The mixture was poured into water, filtered and washed with water and ethanol and reacted without further purification.

reactant | 6-Methoxy-N-methyl-3-nitropyridin-2-amine | 38 mmol, 7 g | COC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C7H9N3O3
reactant | tetrabutylammonium-tri-bromide | 42.0 mmol, 20.3 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
product | 5-Bromo-6-methoxy-N-methyl-3-nitropyridin-2-amine | BrC=1C=C(C(=NC1OC)NC)[N+](=O)[O-] | C7H8BrN3O3
